US08017611B2
Ethylamine (2M in methanol, 0.117 ml) was added in one portion to a solution of 3-[6-amino-5-(1,3-benzoxazol-2-yl)-3-pyridyl]benzenesulphonyl chloride (0.045 g) and N-ethyl-N-isopropylpropan-2-amine (0.030 ml) in THF (2 ml) at ambient temperature, and the resultant mixture stirred for 20 hours. The mixture was then evaporated to dryness in vacuo and redissolved in NMP (2 ml), filtered and purified by preparative LCMS (Waters XBridge Prep C18 OBD column, 5μ silica, 21 mm diameter, 100 mm length), using decreasingly polar mixtures of water (containing 1% ammonia) and acetonitrile as eluents. Fractions containing the desired compound were evaporated to dryness to afford 3-[6-amino-5-(1,3-benzoxazol-2-yl)-3-pyridyl]-N-ethyl-benzenesulphonamide (0.007 mg); Mass Spectrum: M+H+ 395.13; RT 2.59 min.

reactant | Ethylamine | 2M, 0.117 ml | C(C)N | C2H7N
reactant | 3-[6-amino-5-(1,3-benzoxazol-2-yl)-3-pyridyl]benzenesulphonyl chloride | 0.045 g | NC1=C(C=C(C=N1)C=1C=C(C=CC1)S(=O)(=O)Cl)C=1OC2=C(N1)C=CC=C2 | C18H12ClN3O3S
reactant | N-ethyl-N-isopropylpropan-2-amine | 0.030 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 3-[6-amino-5-(1,3-benzoxazol-2-yl)-3-pyridyl]-N-ethyl-benzenesulphonamide | 0.007 mg | NC1=C(C=C(C=N1)C=1C=C(C=CC1)S(=O)(=O)NCC)C=1OC2=C(N1)C=CC=C2 | C20H18N4O3S
